US05854234
2,4-Diamino-3,5,6-trichloropyridine dihydrobromide (1.1 g) and platinum oxide (520 mg) in ethanol (50 mL) were shaken on a Parr hydrogenation apparatus at 55 psi of hydrogen for 48 hours. The contents were filtered and the filtrate was concentrated in vacuo leaving a waxy solid. The solid was triturated with ether/EtOH to give 4-amino-2-iminopiperidine dihydrobromide as a white solid. The analysis of the product was found to be consistent with the proposed structure. MH+=114; 1H NMR (D2 O): δ3.80-3.60 (m, 1H); 3.55-3.25 (m, 1H); 3.08-2.95 (m, 1H); 2.76-2.62 (m, 1H); 2.25-2.13 (m, 1H); 1.95-1.80 (m, 1H).

reactant | 2,4-Diamino-3,5,6-trichloropyridine dihydrobromide | 1.1 g | Br.Br.NC1=NC(=C(C(=C1Cl)N)Cl)Cl
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | platinum oxide | 520 mg | [Pt]=O
product | 4-amino-2-iminopiperidine dihydrobromide | Br.Br.NC1CC(NCC1)=N | InChI=1S/C5H11N3.2BrH/c6-4-1-2-8-5(7)3-4;;/h4H,1-3,6H2,(H2,7,8);2*1H
